US07582761B2
(a) (2-Piperazin-1-ylpyridin-3-yl)methanol
A mixture of (2-fluoro-pyridin-3-yl)methanol (1 g, 8 mmol, Asymchem), piperazine (1.3 g, 15 mmol) and N,N-diisopropylethylamine (1 mL, 5.8 mmol, Aldrich) was reacted under the conditions of Example 43a to give the title compound as a white solid. MS (ESI, pos. ion) m/z: 194 (M+1).

reactant | (2-fluoro-pyridin-3-yl)methanol | 8 mmol, 1 g | FC1=NC=CC=C1CO | C6H6FNO
reactant | piperazine | 15 mmol, 1.3 g | N1CCNCC1 | C4H10N2
reactant | N,N-diisopropylethylamine | 5.8 mmol, 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
product | (2-Piperazin-1-ylpyridin-3-yl)methanol | N1(CCNCC1)C1=NC=CC=C1CO | C10H15N3O
